US08455491B2
Step 3.2. Ethyl 4-[6-chloro-2-(4-fluorophenyl)-7,8-dimethylimidazo[1,2-b]pyridazin-3-yl]-4H-pyridazine-1-carboxylate
7.8 ml (82 mmol) of ethyl chloroformate are added, dropwise, to a suspension of 9.00 g (32.6 mmol) of 6-chloro-2-(4-fluorophenyl)-7,8-dimethylimidazo[1,2-b]pyridazine and 11.9 ml (163 mmol) of pyridazine in 160 ml of dichloromethane at 10° C. The medium is stirred at 10° C. for a further hour and then left to stir for 3 hours. It is then poured into ice-cold water and the product is extracted with ethyl acetate. After several washes with water, the organic phase is dried over sodium sulfate and the solvent is concentrated under reduced pressure. The black residue is then solubilized in dichloromethane and stirred in the presence of animal charcoal, to give a dark-brown solid after filtration through a Büchner funnel and evaporation of the solvent under reduced pressure. The product is chromatographed on a neutral alumina column, elution being carried out with a mixture of dichloromethane and petroleum ether (80/20), to give 11.5 g of a beige powder after crystallization from diethyl ether and drying.

reactant | ethyl chloroformate | 82 mmol, 7.8 ml | ClC(=O)OCC | C3H5ClO2
reactant | 6-chloro-2-(4-fluorophenyl)-7,8-dimethylimidazo[1,2-b]pyridazine | 32.6 mmol, 9.00 g | ClC=1C(=C(C=2N(N1)C=C(N2)C2=CC=C(C=C2)F)C)C | C14H11ClFN3
reactant | pyridazine | 163 mmol, 11.9 ml | N1=NC=CC=C1 | C4H4N2
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | Ethyl 4-[6-chloro-2-(4-fluorophenyl)-7,8-dimethylimidazo[1,2-b]pyridazin-3-yl]-4H-pyridazine-1-carboxylate | 11.5 g | ClC=1C(=C(C=2N(N1)C(=C(N2)C2=CC=C(C=C2)F)C2C=NN(C=C2)C(=O)OCC)C)C | C21H19ClFN5O2
